US04876354
55 ml (85 mmol) of a 1.55 molar solution of n-butyllithium in hexane were added dropwise to a solution of 7.52 g (40 mmol) of N-(3-methoxybenzyl)-imidazole and 4.65 g (40 mmol) of TMEDA in 90 ml of absolute THF at -70° C. The mixture was stirred for a further 20 minutes at -70° C., and a solution of 6.01 g (40 mmol) of adamantanone in 30 ml of absolute THF was then added dropwise at -70° C. in the course of about 10 minutes. The procedure was then continued as described in Example 100. The residue (13 g) from the CH2Cl2 extract was crystallized from acetonitrile. 7.5 g of pure 3-methoxyphenyl-(2-hydroxy-2-adamantyl)-1-imidazolylmethane of melting point 182° C. were obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(3-methoxybenzyl)-imidazole | 40 mmol, 7.52 g | COC=1C=C(CN2C=NC=C2)C=CC1 | C11H12N2O
reactant | TMEDA | 40 mmol, 4.65 g | CN(C)CCN(C)C | C6H16N2
reactant | adamantanone | 40 mmol, 6.01 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-methoxyphenyl-(2-hydroxy-2-adamantyl)-1-imidazolylmethane | 7.5 g | COC=1C=C(C=CC1)C(C=1NC=CN1)C1(C2CC3CC(CC1C3)C2)O | C21H26N2O2
